US07977367B2
Intermediate: benzyl 6-aminonicotinate (I-28a)
To a stirred suspension of 6-aminonicotinic acid (100 g, 0.72 mol; Aldrich Chemical Company, Inc., Milwaukee, Wis.) in N,N-dimethylformamide (700 mL) with brisk mechanical stirring was added potassium carbonate (150 g, 1.08 mol) and the reaction was stirred for 10 min before the portionwise addition of benzyl bromide (95 mL, 0.80 mol). The reaction was stirred at room temperature overnight, then the solids were filtered off and washed thoroughly with ethyl acetate, and the solvent was removed under vacuum. The filter cake was dissolved in water and extracted with ethyl acetate. The residue after evaporation of N,N-dimethylformamide was combined with the ethyl acetate extracts (total volume 2 L of ethyl acetate) and the combined organic extracts washed with brine (5×500 mL), dried (MgSO4) and the solvent removed under reduced pressure. The crude product was refluxed with 1:1 diethyl ether:hexane for 30 min then the solids filtered off (warm), washed with diethyl ether:hexane (1:1), and dried. This solid was precipitated from hot toluene (hot filtration required to remove dibenzylated material) and dried to afford (I-28a) (107.2 g, 65%) as an off-white solid; 1H NMR (DMSO-d6): δ 8.50 (1H), 7.82 (1H), 7.34-7.29 (5H), 6.84 (2H), 6.43 (1H), 5.23 (2H); m/z 229.4 (M+H)+.

reactant | 6-aminonicotinic acid | 0.72 mol, 100 g | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | potassium carbonate | 1.08 mol, 150 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.80 mol, 95 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 700 mL | CN(C=O)C | C3H7NO
product | benzyl 6-aminonicotinate | NC1=NC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C13H12N2O2
